US04046895
1,2,3,4,7,8,9,10-Octahydrophenanthridine
7,8,9,10-Tetrahydrophenanthridine hydrochloride (29 g, 0.13 mole) was dissolved in a mixture of glacial acetic acid (200 ml.) and water (10 ml.) and hydrogenated at 50 psi of hydrogen and room temperature over platinum oxide (750 mg.) until the theoretical uptake of hydrogen (0.26 mole) was observed. The solution was filtered and the solvents removed under reduced pressure. The residue was dissolved in water (100 ml.), and pH adjusted to 9 with Na2CO3 and the solution extracted with diethyl ether (3 × 100 ml.). Drying (MgSO4) and evaporation of the combined organic layers gave a colourless oil, distillation of which gave the title compound (24.5 g, 99%) Bpt 110°-2° C./0.05 mm

reactant | 7,8,9,10-Tetrahydrophenanthridine hydrochloride | 0.13 mole, 29 g | Cl.C1=CC=CC2=NC=C3CCCCC3=C12
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
solvent | hydrogen | [H][H] | H2
catalyst | platinum oxide | 750 mg | [Pt]=O
solvent | hydrogen | 0.26 mole | [H][H] | H2
product | 1,2,3,4,7,8,9,10-Octahydrophenanthridine | 24.5 g, 99% | C1CCCC2=NC=C3CCCCC3=C12 | C13H17N
